US08669234B2
2-Amino-2-(4-bromo-phenyl)-propionic acid:
A mixture of 5-(4-bromo-phenyl)-5-methyl-imidazolidine-2,4-dione (4.0 g, 14.9 mmol) and 3 N NaOH (50 mL) was heated in a sealed tube at 145° C. for two days, then diluted with water (100 mL). The solution was adjusted to pH=4 with 6 N HCl carefully and subsequently stirred at room temperature for 2 hours. The precipitate was filtered off, washed with water. The collected white solid was dried under vacuum to give the product (2.5 g, 65%). m/z 243.7, 245.7 (M+H)+.

reactant | 5-(4-bromo-phenyl)-5-methyl-imidazolidine-2,4-dione | 14.9 mmol, 4.0 g | BrC1=CC=C(C=C1)C1(C(NC(N1)=O)=O)C | C10H9BrN2O2
reactant | NaOH | 3 N, 50 mL | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 2-Amino-2-(4-bromo-phenyl)-propionic acid | 2.5 g, 65% | NC(C(=O)O)(C)C1=CC=C(C=C1)Br | C9H10BrNO2
